US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-{3-[2-(2-methoxy-ethoxy)-ethoxy]-prop-1-ynyl}-phthalazine (Compound 81)
A suspension under N2 of 3-[2-(2-methoxy-ethoxy)-ethoxy]-propyne (810 mg, 5.12 mmoles), prepared as described in example 133, trifluoro-methanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester (2 g, 4.27 mmoles), prepared as described in example 73, and diethylamine (40 ml) was added under stirring with bis(triphenylphosphine)PdCl2 (60 mg, 0.085 mmole) and CuI (16.18 mg, 0.085 mmole). The mixture was refluxed for 6 hours, then dried. The residue was flash chromatographed (eluent: ethyl acetate) to give a solid which was taken up in ethyl ether, filtered and dried under vacuum, at 40° C. to give 940 mg of the title compound (yield: 46%).

reactant | 3-[2-(2-methoxy-ethoxy)-ethoxy]-propyne | 5.12 mmoles, 810 mg | COCCOCCOCC#C | C8H14O3
reactant | trifluoro-methanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester | 4.27 mmoles, 2 g | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)OS(=O)(=O)C(F)(F)F)Cl | C16H10Cl2F3N3O4S
reactant | diethylamine | 40 ml | C(C)NCC | C4H11N
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | CuI | 0.085 mmole, 16.18 mg | [Cu]I
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-{3-[2-(2-methoxy-ethoxy)-ethoxy]-prop-1-ynyl}-phthalazine | 940 mg, yield: 46% | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)C#CCOCCOCCOC)Cl | C23H23Cl2N3O4
